US08084644B2
Benzyl N-phenylpropynthioimidate (0.30 g) and 4-fluorobenzylmercaptan were dissolved to chloroform (15 ml), catalytic amount of potassium t-butoxide was added thereto under ice-cooling and stirred at room temperature for 14 hours. The reaction mixture was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=15:1) to obtain benzyl 3-(4-fluorobenzylthio)-N-phenyl-thioacrylimidate (0.15 g) as light yellow oil.

reactant | Benzyl N-phenylpropynthioimidate | 0.30 g | C1(=CC=CC=C1)N=C(C#C)SCC1=CC=CC=C1 | C16H13NS
reactant | 4-fluorobenzylmercaptan | FC1=CC=C(CS)C=C1 | C7H7FS
reactant | potassium t-butoxide | CC(C)([O-])C.[K+]
solvent | chloroform | 15 ml | C(Cl)(Cl)Cl | CHCl3
product | benzyl 3-(4-fluorobenzylthio)-N-phenyl-thioacrylimidate | 0.15 g | FC1=CC=C(CSC=CC(SCC2=CC=CC=C2)=NC2=CC=CC=C2)C=C1 | C23H20FNS2
